US08809382B2
Step 4 (5-(2-Hexyl-indol-1-yl)-3(R)-methyl-5-oxo-pentanoic acid)
To a solution of 5-(2-hexyl-indol-1-yl)-3-methyl-5-oxo-pentanoic acid methyl ester in hexane and buffer was added lipase and was stirred for 24 hours. The reaction mixture was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 5-(2-hexyl-indol-1-yl)-3-methyl-5-oxo-pentanoic acid methyl ester | COC(CC(CC(=O)N1C(=CC2=CC=CC=C12)CCCCCC)C)=O | C21H29NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 5-(2-Hexyl-indol-1-yl)-3(R)-methyl-5-oxo-pentanoic acid | C(CCCCC)C=1N(C2=CC=CC=C2C1)C(C[C@H](CC(=O)O)C)=O | C20H27NO3
